US04018802
Step C. Preparation of methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate
A suspension of 57% sodium hydride/mineral oil (3.84 g., 0.091 mole) is washed by decantation with petroleum ether to remove the mineral oil. The residual solid is suspended in dry dimethylformamide (100 ml.) and treated with a solution of dimethyl-2-methylsulfonylazelate (23.5 g., 0.08 mole) in dry dimethylformamide (60 ml.) added dropwise at ambient temperature under a nitrogen atmosphere. The resulting solution is stirred for 1 hour at room temperature, cooled to ~10° C., and treated with 1-iodo-4-acetoxynonane (30 g., 0.096 mole) added at such a rate as to maintain an internal temperature less than 35° C. After 19 hours at ambient temperature, the reaction mixture is filtered. Collected sodium iodide (17.1 g.) is washed with ether. The combined filtrate and washings are concentrated in vacuo at ~100° C. yielding a residual oil which is partitioned between ether and dilute hydrochloric acid. The organic extract is washed with water and saturated brine, dried over magnesium sulfate and evaporated in vacuo leaving the title compound as a viscous oil (37.7 g., 98%), pmr (CDCl3)δ2.0 (s, 3H), 3.0 (s, 3H), 3.65 (s, 3H), 3.81 (s, 3H) and 4.9 (b, H).

reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl-2-methylsulfonylazelate | 0.08 mole, 23.5 g | COC(C(CCCCCCC(=O)OC)S(=O)(=O)C)=O | C12H22O6S
reactant | 1-iodo-4-acetoxynonane | 0.096 mole, 30 g | ICCCC(CCCCC)OC(C)=O | C11H21IO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate | 37.7 g, 98% | COC(=O)C(CCCCCCC(=O)OC)(CCCC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H42O8S
